US04537891
5-Bromo-2-(4-aminobutyl)-3-methylpyridine, (0.875 g) and 5-(4-hydroxybenzyl)-2-methylthio-4-pyrimidone (0.745 g) were refluxed in pyridine (3 ml) for 24 hours. The pyridine was evaporated in vacuo. Residual pyridine was removed from the residue by azeotroping with water in vacuo and dried by azeotroping with ethanol. Water (20 ml) was added and the pH lowered to 6 with dilute hydrochloric acid. The solid obtained was recrystallised from ethanol/water, dimethylformamide/water and finally acetic acid/water to give 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(4-hydroxybenzyl)-4-pyrimidone (0.54 g) m.p. 232°-4° C.

reactant | 5-Bromo-2-(4-aminobutyl)-3-methylpyridine | 0.875 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 5-(4-hydroxybenzyl)-2-methylthio-4-pyrimidone | 0.745 g | OC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H12N2O2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(4-hydroxybenzyl)-4-pyrimidone | 0.54 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)O)C | C21H23BrN4O2
